US07531553B2
Step A: 4-(4-Benzyloxy-phenoxy)-2-chloro-pyridine
To a stirring RT suspension of NaH (0.739 g of a 60% by weight oil dispersion, 18.48 mmol) in DMF (20 mL) was added 4-benzyloxy phenol (3.70 g, 18.48 mmol). The mix was stirred 10 min before cooling to 0° C. and adding 2,4-dichloropyridine (2.734 g, 18.48 mmol). The reaction was warmed to RT. After stirring for 60 h, the reaction was quenched with saturated aqueous NaHCO3 and then basified with 2N NaOH. The crude was extracted twice with Et2O. The organic layers were washed three times with 2 N NaOH, once with brine, then combined and dried over Na2SO4, filtered and dried in vacuo. The crude residue was eluted on a silica gel column with a hexanes/EtOAc system to yield title compound, isolated as the major regioisomer.

reactant | NaH | [H-].[Na+]
reactant | 4-benzyloxy phenol | 18.48 mmol, 3.70 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 2,4-dichloropyridine | 18.48 mmol, 2.734 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(4-Benzyloxy-phenoxy)-2-chloro-pyridine | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC(=NC=C2)Cl)C=C1 | C18H14ClNO2
